US04689349
Alpha and beta isomers of 2-(5-methoxyhept-1-yl)-7-methyl-bicyclo [3.3.0]octan-7-ol {octahydro-4-(5-methoxyheptyl)-2-methyl-2-pentalenol}
2-(5-Methoxyhept-1-yl)bicyclo[3.3.0]octan-7-one hexahydro-4-(5-methoxyheptyl)-2(1H)-pentalenone, (4 g, 0.0158 moles) diluted in ether is added dropwise to a stirring solution of ethyl magnesium bromide (0.0158 moles) dissolved with diethyl ether. The mixture is cooled in an ice bath during the addition. The ice bath is removed and the solution stirred for an additional hour. The reaction is quenched with water and a 15% sulfuric acid solution. The organic phase is separated and the solvent removed under vacuum. The aqueous layer is extracted (2×200 ml) and the extracts are combined with the organic layer and dried over anhydrous sodium sulfate. The solid is filtered off and the remaining solvent removed leaving a clear, pale yellow oil. The crude product is subsequently chromatographed on silica gel yielding desired product as a clear colorless oil (1.7 g, 6.3 mmoles).

reactant | 2-(5-Methoxyhept-1-yl)bicyclo[3.3.0]octan-7-one hexahydro-4-(5-methoxyheptyl)-2(1H)-pentalenone | 0.0158 moles, 4 g | COC(CCCCC1C2CC(CC2CC1)=O)CC.COC(CCCCC1C2CC(CC2CC1)=O)CC | 2C16H28O2
reactant | ethyl magnesium bromide | 0.0158 moles | C(C)[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(5-methoxyhept-1-yl)-7-methyl-bicyclo [3.3.0]octan-7-ol | 6.3 mmoles, 1.7 g | COC(CCCCC1C2CC(CC2CC1)(O)C)CC | C17H32O2
